US07786155B2
2-Methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one (1 g, 4 mmol) and 1-(2-bromo-ethyl)-4-nitro-benzene (919 mg, 4 mmol) and potassium carbonate (669 mg, 4.8 mmol) are dissolved in 12 mL acetone and the reaction mixture is heated at 70° C. for 5 min in the microwave oven (Biotage Initiator) and again heated for 5 min at 120° C. The mixture is cooled to room temperature, filtered and the filtrate evaporated to yield the crude product which is subjected to flash chromatography. ISCO Companion CombiFlash, 80 g silica gel, cyclohexane/ethyl acetate, followed by a second purification step, 40 g silica gel, acetone/cylohexane to yield 2-methyl-3-[2-(4-nitro-phenyl)-ethyl]-5,5-diphenyl-3,5-dihydro-imidazol-4-one (750 mg, 45%). LC/MS at 254 nm; [M+H] 400; Rt 3.391 min.

reactant | 2-Methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | 4 mmol, 1 g | CC1=NC(C(N1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2O
reactant | 1-(2-bromo-ethyl)-4-nitro-benzene | 4 mmol, 919 mg | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | potassium carbonate | 4.8 mmol, 669 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | 2-methyl-3-[2-(4-nitro-phenyl)-ethyl]-5,5-diphenyl-3,5-dihydro-imidazol-4-one | 750 mg, 45% | CC1=NC(C(N1CCC1=CC=C(C=C1)[N+](=O)[O-])=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O3
